US08580957B2
[(cis)-6-Bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl]formamide (for a preparation see intermediate 89) (8.0 g, 26.9 mmol) in DCM (100 mL) was added dropwise at room temperature to a mixture of acetyl chloride (6.7 mL, 94.28 mmol) and pyridine (10.85 mL, 134.7 mmol) in DCM (150 mL). The resulting mixture was stirred at this temperature for 1 h then was washed with 1M NaOH aqueous solution, 1M HCl aqueous solution, a saturated NaHCO3 aqueous solution then brine, was dried over MgSO4 and concentrated in vacuovacuo. Purification of the residue by flash chromatography on silica gel (20:1 DCM/MeOH) gave [(cis)-1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl]formamide (6.29 g, 18.5 mmol, 68%) as a light orange solid.

reactant | [(cis)-6-Bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl]formamide | BrC=1C=C2[C@@H](C[C@@H](NC2=CC1)CCC)NC=O | C13H17BrN2O
reactant | acetyl chloride | 94.28 mmol, 6.7 mL | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 134.7 mmol, 10.85 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | [(cis)-1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl]formamide | 18.5 mmol, 6.29 g, 68% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC=O)CCC | C15H19BrN2O2
